US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and 2-naphthaleneboronic acid to give (1-naphthalen-2-yl-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine. LC-MS m/e 337(MH+).

reactant | (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C12H9ClN4
reactant | 2-naphthaleneboronic acid | C1=C(C=CC2=CC=CC=C12)B(O)O | C10H9BO2
product | (1-naphthalen-2-yl-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | C1=C(C=CC2=CC=CC=C12)C1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C22H16N4
